US04243609
A solution of 26.6 g. of diethyl malonate and 10 ml. of 1,2-dimethoxyethane is added to a suspension of 4.0 g. of sodium hydride in 1,2-dimethoxyethane under argon. A solution of 17.3 g. of 2-fluoro-4-(hexadecylamino)benzoyl chloride hydrochloride in 1,2-dimethoxyethane is then added. The reaction mixture is refluxed for 4.5 hours, cooled, poured on ice, acidified, and extracted with ether. The ether solution is washed with water and saturated sodium chloride solution, dried over anhydrous sodium sulfate and concentrated to dryness. Addition of a small amount of ethanol to the residue gives a solid which is filtered and discarded. The ethanol filtrate is concentrated and the residue is recrystallized from ether to yield diethyl 2-fluoro-4-(hexadecylamino)benzoylmalonate.

reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | [H-].[Na+]
reactant | 2-fluoro-4-(hexadecylamino)benzoyl chloride hydrochloride | Cl.FC1=C(C(=O)Cl)C=CC(=C1)NCCCCCCCCCCCCCCCC
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | diethyl 2-fluoro-4-(hexadecylamino)benzoylmalonate | FC1=C(C(=O)C(C(=O)OCC)C(=O)OCC)C=CC(=C1)NCCCCCCCCCCCCCCCC | C30H48FNO5
